US06235731B1
A mixture of ethyl 3-(3-aminophenyl)propionate (6.21 g, 32.1 mmol), di-tert-butyl dicarbonate (8.41 g, 38.5 mmol), triethylamine (3.90 g, 38.5 mmol) and tetrahydrofuran (30 ml) was stirred at room temperature for 19 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was successively washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (100 g) with hexane-ethyl acetate (8:1) to give ethyl 3-(3-tert-butoxycarbonylaminophenyl)propionate as a yellow oil (9.35 g, 99%).

reactant | ethyl 3-(3-aminophenyl)propionate | 32.1 mmol, 6.21 g | NC=1C=C(C=CC1)CCC(=O)OCC | C11H15NO2
reactant | di-tert-butyl dicarbonate | 38.5 mmol, 8.41 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 38.5 mmol, 3.90 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-(3-tert-butoxycarbonylaminophenyl)propionate | 9.35 g, 99% | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)CCC(=O)OCC | C16H23NO4
